US09024032B2
To a solution of 1.44 g (2.95 mmol) 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-phenyl]-2-hydroxymethyl-5-(4-methoxy-benzyloxy)-1H-pyridin-4-one in 14.5 mL DMSO was added 1.67 g (5.90 mmol) o-iodoxybenzoic acid (99%). The mixture was stirred for 4 h at room temperature, then slowly diluted with 30 mL of a 1:1:1 mixture of sat. aq. sodium thiosulfate, sat. aq. NaHCO3, and water. The crude product precipitated and was collected by filtration and dried in vacuo. Purification by automated flash chromatography (40 g silica gel cartridge 0-10% MeOH/EtOAc over 30 min afforded 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-phenyl]-5-(4-methoxy-benzyloxy)-4-oxo-1,4-dihydro-pyridine-2-carbaldehyde. 1H NMR (300 MHz, DMSO-d□): δ 9.56 (s, 1 H); 8.36 (s, 1 H); 7.81-7.59 (m, 6 H); 7.35 (d, J=8.35 Hz, 2 H); 6.93 (d, J=8.32 Hz, 2 H); 6.87 (s, 1 H); 6.32 (d, J=3.42 Hz, 1 H); 5.00 (s, 2 H); 3.74 (s, 3 H).

reactant | 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-phenyl]-2-hydroxymethyl-5-(4-methoxy-benzyloxy)-1H-pyridin-4-one | 2.95 mmol, 1.44 g | ClC=1C(=C2C(=NC1)NC=C2)C=2C=C(C=CC2)N2C(=CC(C(=C2)OCC2=CC=C(C=C2)OC)=O)CO | C27H22ClN3O4
reactant | o-iodoxybenzoic acid | 5.90 mmol, 1.67 g | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
solvent | DMSO | 14.5 mL | CS(=O)C | C2H6OS
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
product | 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-phenyl]-5-(4-methoxy-benzyloxy)-4-oxo-1,4-dihydro-pyridine-2-carbaldehyde | ClC=1C(=C2C(=NC1)NC=C2)C=2C=C(C=CC2)N2C(=CC(C(=C2)OCC2=CC=C(C=C2)OC)=O)C=O | C27H20ClN3O4
